US06194585B1
4-(3-Bromo-phenyl)-tetrahydro-pyran-4-carbonitrile (1.33 g) was mixed with Na2CO3 (1.59 g), Cs2CO3 (0.651 g) and 4-acetamidothiophenol (1 g) in N-methyl pyrrolidinone (15 mL). The reaction mixture was heated at 130° C. overnight. After cooling, the mixture was poured into iced water. The product precipitated out as a solid, was collected by suction filtration. The solid was recrystallized from a mixture of EtOAc and hexanes to provide N-{4-[3-(4-Cyano-tetrahydro-pyran-4-yl)-phenyl sulfanyl]-phenyl}acetamide(1.4 g, 80% yield).

reactant | 4-(3-Bromo-phenyl)-tetrahydro-pyran-4-carbonitrile | 1.33 g | BrC=1C=C(C=CC1)C1(CCOCC1)C#N | C12H12BrNO
reactant | Na2CO3 | 1.59 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Cs2CO3 | 0.651 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-acetamidothiophenol | 1 g | C(C)(=O)NC1=CC=C(C=C1)S | C8H9NOS
solvent | N-methyl pyrrolidinone | 15 mL | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | N-{4-[3-(4-Cyano-tetrahydro-pyran-4-yl)-phenyl sulfanyl]-phenyl}acetamide | 1.4 g, 80% yield | C(#N)C1(CCOCC1)C=1C=C(C=CC1)SC1=CC=C(C=C1)NC(C)=O | C20H20N2O2S
